US04113877
To a solution of N,N-dimethylsulfamoyl chloride (17.4 g., 0.12 mole) in dry methylene chloride (75 ml.) maintained under a nitrogen atmosphere is added slowly and with good stirring a solution of 2,2,2-trifluoro-N-[2-hydroxy-3-iodo-5-(1,1-dimethylethyl)phenylmethyl]acetamide (8 g., 0.02 mole) and triethylamine (12.12 g., 0.12 mole) in dry methylene chloride (200 ml.) at 20°-25° C. The resulting reaction mixture is stirred at 20°-25° C. under nitrogen for 72 hours. Removal of the solvent in vacuo leaves a tacky residue which is partitioned between ether and water. The phases are separated and the organic phase is washed successively with 2N hydrochloric acid, water and saturated brine, dried over sodium sulfate and filtered. Evaporation of the filtrate leaves the intermediate 2-(2,2,2-trifluoroacetamidomethyl)-4-(1,1-dimethylethyl)-6-iodophenyl N,N-dimethylsulfamate as a tan oil (10.3 g., 100%).

reactant | N,N-dimethylsulfamoyl chloride | 0.12 mole, 17.4 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | 2,2,2-trifluoro-N-[2-hydroxy-3-iodo-5-(1,1-dimethylethyl)phenylmethyl]acetamide | 0.02 mole, 8 g | FC(C(=O)NCC1=C(C(=CC(=C1)C(C)(C)C)I)O)(F)F | C13H15F3INO2
reactant | triethylamine | 0.12 mole, 12.12 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,2,2-trifluoroacetamidomethyl)-4-(1,1-dimethylethyl)-6-iodophenyl N,N-dimethylsulfamate | CN(S(OC1=C(C=C(C=C1I)C(C)(C)C)CNC(C(F)(F)F)=O)(=O)=O)C | C15H20F3IN2O4S
